US05100889
A. 3-Bromobenzenemethanol
To a solution of 50.0 g (0.25 mols, Aldrich) of 3-bromobenzoic acid in 100 ml of dry tetrahydrofuran (THF) cooled to 0° is added slowly 100 ml (1.0M in THF, 100 mmols, Aldrich) of borane-tetrahydrofuran complex. The reaction is stirred at 0° for 1 hour then at room temperature for 18 hours. The reaction is quenched by dropwise addition of water then concentrated in vacuo to remove solvent. The residue is partitioned between diethyl ether and 1M aqueous HCl. The organic layer is separated, washed with 1M aqueous sodium hydroxide, brine, dried (magnesium sulfate) and concentrated in vacuo to afford title compound.

reactant | 3-bromobenzoic acid | 0.25 mols, 50.0 g | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-Bromobenzenemethanol | BrC=1C=C(C=CC1)CO | C7H7BrO
